US06388040B1
A 1.5-1 autoclave purged completely with nitrogen and equipped with a stirrer was charged with 1 l of liquefied propylene, 40 g of 1-butene and 1 mmol of triethylaluminum, and the mixture was stirred at 40° C. for 15 minutes. Subsequently, the autoclave was pressurized with ethylene, the pressure within the autoclave was kept at 1.63 MPa, and stirring was continued for 30 minutes. Further, 31 mg of the preactivated, supported metallocene catalyst as prepared above were added, and the copolymerization was continued for one hour, while keeping the internal temperature of the autoclave at 40° C. After completion of the copolymerization, unreacted monomer was discharged, and the contents were taken out of the autoclave to obtain 85 g of a propylene/ethylene/1-butene terpolymer (PEB4).

reactant | propylene | 1 l | C=CC | C3H6
reactant | 1-butene | 40 g | C=CCC | C4H8
reactant | triethylaluminum | 1 mmol | C(C)[Al](CC)CC
reactant | ethylene | C=C | C2H4
product | propylene/ethylene/1-butene | 85 g | C=CC.C=C.C=CCC | InChI=1S/C4H8.C3H6.C2H4/c1-3-4-2;1-3-2;1-2/h3H,1,4H2,2H3;3H,1H2,2H3;1-2H2
